US04590192
6-Formamido-3-ethoxy-benzoisothiazole-1,1-dioxide
Following the procedures outlined in Description 4a, 6-amino-3-ethoxy-benzoisothiazole-1,1-dioxide was reacted with formic-acetic anhydride to give the title compound.

reactant | 6-amino-3-ethoxy-benzoisothiazole-1,1-dioxide | NC1=CC2=C(C(=NS2(=O)=O)OCC)C=C1 | C9H10N2O3S
reactant | formic-acetic anhydride | C(C)(=O)OC=O | C3H4O3
product | 6-Formamido-3-ethoxy-benzoisothiazole-1,1-dioxide | C(=O)NC1=CC2=C(C(=NS2(=O)=O)OCC)C=C1 | C10H10N2O4S
